US06121285
5-Amino-7-[4-(R)-(1-aminocyclopropyl)-3,3-difluoro-1-pyrrolidinyl]-6-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid hydrochloride
1-Benzyloxycarbonyl-4-(R)-(1-tert-butoxycarbonylaminocyclopropyl)-3,3-difluoropyrrolidine (792.4 mg, 1.999 mmol) was dissolved in methanol (80 ml), and the solution was mixed with a 5% palladium-carbon catalyst (water content, 55.6%; 800 mg) and stirred for 6 hours under a pressured hydrogen atmosphere (4.5 kg/cm2). The catalyst was removed by celite filtration (methanol washing), and the filtrate was concentrated under reduced pressure. The thus obtained residue was dissolved in dimethyl sulfoxide (8 ml), and the solution was mixed with 5-amino-6,7-difluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid (416.2 mg, 1.333 mmol) and triethylamine (3 ml) and stirred for 5 days in an oil bath of 120° C. under a nitrogen atmosphere. After cooling, dimethyl sulfoxide was evaporated under reduced pressure, the thus obtained residue was dissolved in chloroform (150 ml) and washed with a 10% citric acid aqueous solution (100 ml×2) and saturated brine (100 ml) in that order and then the organic layer was dried over anhydrous magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure. To the thus obtained residue, which was cooled in an ice bath, was added dropwise concentrated hydrochloric acid (10 ml), followed by 15 minutes of stirring at room temperature. After adding water (10 ml) to the reaction solution, the aqueous solution was washed with dichloromethane (30 ml×5); adjusted to pH 7.4 with sodium hydroxide aqueous solution and then extracted with chloroform (100 ml×4). The organic layers were combined, dried over anhydrous magnesium sulfate and then filtered, and the filtrate was concentrated under reduced pressure. The thus obtained residue was subjected to preparative silica gel thin layer chromatography (development with the bottom layer of a mixture of chloroform:methanol:water=7:3:1), and the thus obtained crude product was dissolved in ethanol (20 ml). While cooling in an ice bath, 1 N hydrochloric acid (1.5 ml) was added dropwise thereto, and the reaction solution was stirred at the same temperature for 5 minutes and then concentrated under reduced pressure (ethanol azeotropic treatment was conducted three times). Thereafter, the resulting residue was purified by recrystallization from ethanol-diisopropyl ether and then dried under reduced pressure to obtain 137.4 mg (19.9%) of the title compound as a yellow powder.

reactant | 1-Benzyloxycarbonyl-4-(R)-(1-tert-butoxycarbonylaminocyclopropyl)-3,3-difluoropyrrolidine | 1.999 mmol, 792.4 mg | C(C1=CC=CC=C1)OC(=O)N1CC([C@H](C1)C1(CC1)NC(=O)OC(C)(C)C)(F)F | C20H26F2N2O4
reactant | 5-amino-6,7-difluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | 1.333 mmol, 416.2 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)C)[C@H]1[C@H](C1)F)C(=O)O)=O | C14H11F3N2O3
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 N, 1.5 ml | Cl | ClH
solvent | methanol | 80 ml | CO | CH4O
catalyst | palladium-carbon | 800 mg | [C].[Pd]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-Amino-7-[4-(R)-(1-aminocyclopropyl)-3,3-difluoro-1-pyrrolidinyl]-6-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid hydrochloride | 137.4 mg, 19.9% | Cl.NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC([C@H](C1)C1(CC1)N)(F)F)C)[C@H]1[C@H](C1)F)C(=O)O)=O | InChI=1S/C21H22F4N4O3.ClH/c1-8-16-13(18(30)9(19(31)32)5-29(16)11-4-10(11)22)15(26)14(23)17(8)28-6-12(20(27)2-3-20)21(24,25)7-28;/h5,10-12H,2-4,6-7,26-27H2,1H3,(H,31,32);1H/t10-,11+,12+;/m0./s1
